US09062028B2
Step B. 1-(5-(3-(Aminomethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one
To a solution of tert-butyl 3-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzylcarbamate (0.12 g, 0.227 mmol) in DCM (2.5 mL) at 0° C. was added TFA (0.35 mL, 4.54 mmol) dropwise. The reaction mixture was slowly warmed to room temperature and stirred for 16 h. After this time, the reaction mixture was quenched with 50% saturated NaHCO3, and the aqueous phase was extracted with DCM. The combined organic layer was dried over anhydrous MgSO4, filtered, and concentrated in vacuo to afford the title compound (0.075 g, 77% yield). LCMS, [M+H]+=429.2.

reactant | tert-butyl 3-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzylcarbamate | 0.227 mmol, 0.12 g | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=C(CNC(OC(C)(C)C)=O)C=CC2)C=CC=C1C | C33H40N2O4
reactant | TFA | 4.54 mmol, 0.35 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-(3-(Aminomethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | 0.075 g, 77% yield | NCC=1C=C(C=CC1)C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O | C28H32N2O2
